Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
amlodipine
 
Attending: ___.
 
Chief Complaint:
BENIGN PROSATIC HYPERTROPHY; LOWER URINARY TRACT SYMPTOMS with 
URINARY RETENTION
 
Major Surgical or Invasive Procedure:
___: transurethral resection of prostate

 
History of Present Illness:
___ y/o male with longstanding LUTS, elevated PSA, and prior 
episodes of urinary retention with hydronephrosis. Currently on 
tamsulosin, finasteride, and BID CIC after he was noted to have 
PVR of 600 in ___ clinic. Prior UDS in ___ showed Qmax 5, 
Pdet@Qmax 130, BOOI 120, BCI 155. Prior TRUS biopsy (negative 
for malignancy) with prostate volume 96.
 
Past Medical History:
1. CKD in the setting of chronic obstruction. Plan for TURP in 
___ per urology, and self catheterization in the meantime. 
His last Cr was 0.9 on ___. 
2. Hypertension. 
3. Hyponatremia
4. Tachycardia. 
5. BPH
6. URINARY RETENTION (REQUIRING CIC
 
Social History:
___
Family History:
NON-CONTRIBUTORY
 
Physical Exam:
wdwn male, nad, 
avss
abdomen soft, nt/nt
extremities w/out edema, pitting, pain
foley in place, pink uop (no clots)
 
Pertinent Results:
___ 05:28PM BLOOD WBC-12.3*# RBC-3.44*# Hgb-10.6*# 
Hct-32.3*# MCV-94 MCH-30.8 MCHC-32.8 RDW-13.2 RDWSD-45.2 Plt 
___
___ 05:28PM BLOOD Glucose-119* UreaN-13 Creat-0.9 Na-138 
K-4.5 Cl-106 HCO3-22 AnGap-15
___ 05:28PM BLOOD Calcium-7.5* Mg-1.6
 
Brief Hospital Course:
Mr. ___ was admitted to Dr. ___ service after 
bipolar transurethral resection of prostate. No concerning 
intraoperative events occurred; please see dictated operative 
note for details. Mr. ___ received ___ antibiotic 
prophylaxis and his postoperative course was uncomplicated. He 
received intravenous antibiotics and continuous bladder 
irrigation overnight. On POD1 the CBI was discontinued. His 
urine was clear-pink and without clots. He remained a-febrile 
throughout his hospital stay.  At discharge, the Mr. ___ 
pain was well controlled with oral pain medications, was 
tolerating regular diet, ambulating without assistance, and 
versed on foley care/hygiene.  He was given oral pain 
medications on discharge and explicit instructions to follow up 
in clinic for trial of void.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Finasteride 5 mg PO DAILY 
2. Metoprolol Succinate XL 50 mg PO DAILY 
3. NIFEdipine CR 30 mg PO DAILY 
4. Tamsulosin 0.8 mg PO QHS 
5. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q4H:PRN Pain - Mild  
2.  Bacitracin Ointment 1 Appl TP TID  
3.  OxyCODONE (Immediate Release) 2.5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg HALF to ONE FULL tablet(s) by mouth Q4hrs 
Disp #*10 Tablet Refills:*0 
4.  Senna 8.6 mg PO BID 
RX *sennosides [Senokot] 8.6 mg ONE tab by mouth twice a day 
Disp #*60 Tablet Refills:*0 
5.  Finasteride 5 mg PO DAILY  
6.  Metoprolol Succinate XL 50 mg PO DAILY  
7.  NIFEdipine CR 30 mg PO DAILY  
8.  Tamsulosin 0.8 mg PO QHS  
9.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
- lower urinary tract symptoms; benign prostatic hyperplasia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
These steps can help you recover after your procedure. 
•DO drink plenty of water to flush out the bladder. 
•DO avoid straining during a bowel movement. Eat 
fiber-containing foods and avoid foods that can cause 
constipation. Ask your doctor if you should take a laxative if 
you do become constipated. 
•Don't take blood-thinning medications until your doctor says 
it's OK. 
•Don't do any strenuous activity, such as heavy lifting, for 
four to six weeks or until your doctor says it's OK. 
•Don't have sex. You'll likely be able to resume sexual 
activity in about four to six weeks. 
•Don't drive until your doctor says it's OK. ___, you can 
drive once your catheter is removed and you're no longer taking 
prescription pain medications. 

•You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve. You may 
have clear or yellow urine that periodically turns pink/red 
throughout the healing process. Generally, the discoloration of 
the urine is “OK” unless it transitions from ___, 
___ Aid to a very dark, thick or “like tomato juice” 
color

•Resume your pre-admission/home medications EXCEPT as noted. 
You should ALWAYS call to inform, review and discuss any 
medication changes and your post-operative course with your 
primary care team.  

•Unless otherwise advised, blood thinning medications like 
ASPIRIN should be held until the urine has been clear/yellow for 
at least three days.  Your medication reconciliation will note 
if you may resume aspirin or prescription blood thinners (like 
Coumadin (warfarin), Xarelto, Lovenox, etc.)

•If needed, you will be prescribed an antibiotic to continue 
after discharge or save until your Foley catheter is removed 
(called a “trial of void” or “void trial”).  

•You may be discharged home with a medication called PYRIDIUM 
that will help with the "burning" pain you may experience when 
voiding. This medication may turn your urine bright orange.

•Stool softeners have been prescribed to avoid post surgical 
constipation and constipation related to narcotic pain 
medication. Discontinue if loose stool or diarrhea develops.

•AVOID STRAINING for bowel movements as this may stir up 
bleeding.  Avoid  constipating foods for ___ weeks, and drink 
plenty of fluids to keep hydrated

•No vigorous physical activity or sports for 4 weeks or until 
otherwise advised

•Do not lift anything heavier than a phone book (10 pounds) or 
participate in high intensity physical activity (which includes 
intercourse) for a minimum of four weeks or until you are 
cleared by your Urologist in follow-up

•Acetaminophen (Tylenol) should be your first-line pain 
medication. A narcotic pain medication may also be prescribed 
for breakthrough or moderate pain.  

•The maximum daily Tylenol/Acetaminophen dose is 3 grams from 
ALL sources. 

•Do not drive or drink alcohol while taking narcotics and do 
not operate dangerous machinery.  

WHEN YOU ARE DISCHARGED WITH A FOLEY CATHETER:
o-Please also reference the nursing handout and instructions on 
routine care and hygiene

o-Your Foley should be secured to the catheter secure on your 
thigh at ALL times until your follow up with the surgeon.

o-DO NOT allow anyone outside your urologist/team 
representative remove your Foley for any reason.

o-Wear Large Foley bag for majority of time. The leg bag (if 
provided)  is for short-duration periods and the bag must be 
emptied frequently.

o-Do NOT drive if you have a Foley in place (for your 
safety-but of course you may be a passenger

 
Followup Instructions:
___